US05543298
5,6-Di(tert-butyldimethylsilyloxy)-3-(4-dimethylaminophenyl)indene
Magnesium (124 mg, 5.1 mmol) is covered with 1 ml of distilled THF and heated at 60° C. with stirring. A solution of 4-bromo-N,N-dimethylaniline (1.02 g, 5.1 mmol) in 5 ml of distilled THF is added dropwise over the course of 20 min. The reaction mixture is heated at reflux of the THF for 1 h. A solution of 5,6-di(tert-butyldimethylsilyloxy)indan-1-one (2 g, 5.1 mmol) in 10 ml of distilled THF is added dropwise at room temperature over the course of 5 min to this yellow-green solution. The mixture is brought to reflux for 20 h. The reaction mixture, which is violet in colour, is hydrolyzed by saturated aqueous ammonium chloride solution, then extracted with ethyl acetate. The organic phase is washed with saturated aqueous NaCl solution, then dried over MgSO4. The solvent is evaporated under reduced pressure. The desired product is purified by chromatography with an eluent: 9:1 hexane/ethyl acetate, and is obtained in the form of an oil (0.9 g; 36%)

reactant | Magnesium | 5.1 mmol, 124 mg | [Mg] | Mg
reactant | 4-bromo-N,N-dimethylaniline | 5.1 mmol, 1.02 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | 5,6-di(tert-butyldimethylsilyloxy)indan-1-one | 5.1 mmol, 2 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2CCC(C2=CC1O[Si](C)(C)C(C)(C)C)=O | C21H36O3Si2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5,6-Di(tert-butyldimethylsilyloxy)-3-(4-dimethylaminophenyl)indene | [Si](C)(C)(C(C)(C)C)OC=1C=C2C(=CCC2=CC1O[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)N(C)C | C29H45NO2Si2
